US07807686B2
To a solution of 5-hydroxyanthranilic acid (7.6 g, 49.3 mmol) in DMF (100 mL) was added 1-[3-dimethylaminopropyl]-3-ethylcarbodiimide hydrochloride (EDC) (10.4 g, 54.2 mmol), 1-hydroxybenzotriazole hydrate (HOBt) (7.3 g, 54.2 mmol), 2-amino-N-isopropyl-acetamide hydrochloride (INTERMEDIATE I.1) (7.5 g, 49.3 mmol) and N,N-diisopropylethylamine (DIEA) (9.50 mL, 7.0 g, 54.2 mmol). The reaction mixture was stirred at room temperature for 24 h, concentrated in vacuo to half of its volume and partitioned between diethyl ether (100 mL) and 1N HCl (aq.) (400 mL). The aqueous layer was extracted with diethyl ether (5×100 mL), and ethyl acetate (5×100 mL). The aqueous layer was then concentrated under high vacuum to dryness. The red residue was dissolved in ethanol (20 mL) followed by addition of dichloromethane (1 L). The resulting brown precipitate was filtered under vacuum and washed with a minimum amount of methanol to give the desired product 2-amino-5-hydroxy-N-(isopropylcarbamoylmethyl)benzamide (INTERMEDIATE I.1) hydrochloride salt as a white solid (5.7 g, 19.8 mmol, 40%).

reactant | 5-hydroxyanthranilic acid | 49.3 mmol, 7.6 g | OC1=CC=C(C(C(=O)O)=C1)N | C7H7NO3
reactant | 1-[3-dimethylaminopropyl]-3-ethylcarbodiimide hydrochloride | 54.2 mmol, 10.4 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 54.2 mmol, 7.3 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2-amino-N-isopropyl-acetamide hydrochloride | 49.3 mmol, 7.5 g | Cl.NCC(=O)NC(C)C
reactant | N,N-diisopropylethylamine | 54.2 mmol, 9.50 mL, 7.0 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-amino-5-hydroxy-N-(isopropylcarbamoylmethyl)benzamide | NC1=C(C(=O)NCC(NC(C)C)=O)C=C(C=C1)O | C12H17N3O3
